US09029408B2
Synthesis of (2-(1H-indol-3-yl)-1H-imidazol-4-yl)(3,4,5-trimethoxyphenyl)methanone (17ya)
To a solution of (1-(phenylsulfonyl)-2-(1-(phenylsulfonyl)-1H-indol-3-yl)-1H-imidazol-4-yl)(3,4,5-trimethoxyphenyl)methanone (17yaa) (1 mmol) in ethanol (40 mL) and water (4 mL) was added sodium hydroxide (10 equiv, 10 mmol) and stirred overnight under refluxing condition in darkness. The reaction mixture was diluted by 50 mL of water and extracted by ethyl acetate (200 mL). The organic layer was dried over magnesium sulfate and concentrated. The residue was purified by flash column chromatography (hexane:ethyl acetate 1:1) to give a yellow solid. Yield: 60%. 1H NMR (500 MHz, CD3OD) δ 8.31 (d, J=6.5 Hz, 1H), 7.99 (s, 1H), 7.90 (s, 1H), 7.48-7.52 (m, 3H), 7.24-7.28 (m, 2H), 4.00 (s, 6H), 3.93 (s, 3H). MS (ESI) calcd for C21H19N3O4 377.1. found 400.1 [M+Na]+. Mp 208-210° C.

reactant | (1-(phenylsulfonyl)-2-(1-(phenylsulfonyl)-1H-indol-3-yl)-1H-imidazol-4-yl)(3,4,5-trimethoxyphenyl)methanone | 1 mmol | C1(=CC=CC=C1)S(=O)(=O)N1C(=NC(=C1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C33H27N3O8S2
reactant | sodium hydroxide | 10 mmol, 10 equiv | [OH-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 4 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | (2-(1H-indol-3-yl)-1H-imidazol-4-yl)(3,4,5-trimethoxyphenyl)methanone | Yield: 60% | N1C=C(C2=CC=CC=C12)C=1NC=C(N1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C21H19N3O4
